US07566699B2
4-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[(E)-2-(4-bromophenyl)vinyl]benzofuran
To a suspension of 2′-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-(methoxycarbonylmethoxy)acetophenone (0.55 g) and 4-bromobenzaldehyde (0.19 g) in ethanol (9 mL) were added water (3 mL) and potassium hydroxide (0.67 g), and the mixture was stirred at room temperature for three days. To the reaction mixture was added 2 mol/L hydrochloric acid (7 mL), and the resulting mixture was extracted with ethyl acetate twice. The extracts were combined and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. To the residue were added sodium acetate (1.97 g), acetic acid (5 mL) and acetic anhydride (2.08 mL), and the mixture was stirred at 115° C. overnight. The reaction mixture was cooled to room temperature and poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-3/2) to give the title compound (0.2 g).

reactant | 2′-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-(methoxycarbonylmethoxy)acetophenone | 0.55 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(C(=CC=C1)OCC(=O)OC)C(C)=O | C25H30O14
reactant | 4-bromobenzaldehyde | 0.19 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | potassium hydroxide | 0.67 g | [OH-].[K+]
reactant | hydrochloric acid | 2 mol/L, 7 mL | Cl | ClH
solvent | ethanol | 9 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
product | 4-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[(E)-2-(4-bromophenyl)vinyl]benzofuran | 0.2 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)\C=C\C2=CC=C(C=C2)Br | C30H29BrO11
